US05780642
A solution of 3,4-dimethylbenzenethiol (9.24 g) in DMF (30 ml) reacted with a solution of methyl N-[1-(4-bromomethylphenyl)-1-methylethyl]carbamate (19.15 g) in DMF (100 ml) by Method 6a) to give methyl N-{1-methyl-1-[4-(3,4-xylylthiomethyl)phenyl]ethyl}carbamate as a sticky solid.

reactant | 3,4-dimethylbenzenethiol | 9.24 g | CC=1C=C(C=CC1C)S | C8H10S
reactant | methyl N-[1-(4-bromomethylphenyl)-1-methylethyl]carbamate | 19.15 g | BrCC1=CC=C(C=C1)C(C)(C)NC(OC)=O | C12H16BrNO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl N-{1-methyl-1-[4-(3,4-xylylthiomethyl)phenyl]ethyl}carbamate | CC(C)(C1=CC=C(C=C1)CSC1=CC(=C(C=C1)C)C)NC(OC)=O | C20H25NO2S
